US06211215B1
In substantially the same manner as in Reference Example 31, 3,3-diphenylpropenamide was allowed to react with 1,3-dichloroacetone to give 2-(2,2-diphenylethenyl)-4-chloromethyloxazole. The yield was 49%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 107-108° C.

reactant | 3,3-diphenylpropenamide | C1(=CC=CC=C1)C(=CC(=O)N)C1=CC=CC=C1 | C15H13NO
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
product | 2-(2,2-diphenylethenyl)-4-chloromethyloxazole | yield was 49% | C1(=CC=CC=C1)C(=CC=1OC=C(N1)CCl)C1=CC=CC=C1 | C18H14ClNO
